US08138178B2
To a solution of ((R)-3-((S)-1-(4-bromophenyl)ethyl)-6-(3-hydroxypropyl)-6-phenyl-1,3-oxazinan-2-one (2 g, 4.8 mmol) in DMSO (30 mL) were added bis(pinacolato)diboron (1.58 g, 6.3 mmol), KOAc (1.51 g, 15.4 mmol) and PdCl2 (130 mg, 0.16 mmol) under nitrogen atmosphere. The formed mixture was stirred at 90° C. for 20 h. The reaction was quenched with water and extracted with EtOAc. The combined organic phase was concentrated to give the crude product, which was purified by column chromatography to give (R)-6-(3-hydroxypropyl)-6-phenyl-3-((S)-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl)-1,3-oxazinan-2-one (1.7 g, 77%). 1H NMR: (400 MHz, CDCl3): δ=1.18 (t, 1H), 1.33 (S, 11H), 1.43 (m, 2H), 1.48 (m, 3H), 1.71 (m, 1H), 1.88 (m, 2H), 2.1-2.3 (t, 3H), 2.7 (m, 1H), 3.5 (m, 2H), 5.5 (m, 1H), 6.72 (m, 2H), 7.25-7.37 (m, 5H), 7.48 (m, 2H).

reactant | (R)-3-((S)-1-(4-bromophenyl)ethyl)-6-(3-hydroxypropyl)-6-phenyl-1,3-oxazinan-2-one | 4.8 mmol, 2 g | BrC1=CC=C(C=C1)[C@H](C)N1C(O[C@](CC1)(C1=CC=CC=C1)CCCO)=O | C21H24BrNO3
reactant | bis(pinacolato)diboron | 6.3 mmol, 1.58 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 15.4 mmol, 1.51 g | CC(=O)[O-].[K+]
solvent | DMSO | 30 mL | CS(=O)C | C2H6OS
catalyst | PdCl2 | 0.16 mmol, 130 mg | Cl[Pd]Cl
product | (R)-6-(3-hydroxypropyl)-6-phenyl-3-((S)-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl)-1,3-oxazinan-2-one | 1.7 g, 77% | OCCC[C@@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C1=CC=CC=C1 | C27H36BNO5
